US05981572
Cyclopropane carboxylic acid [3-(2,3-dihydro-5-fluorobenzofuran-4-yl)propyl]-amide
3-(2,3-Dihydro-5-fluorobenzofuran-4-yl)propylamine hydrochloride (0.27 g) in dichloromethane (5 ml) containing triethylamine (0.5 ml) was cooled in ice. Cyclopropanecarbonyl chloride (0.12 ml) was added and stirring continued at 5° for 2 h and at room temperature for 16 h. The mixture was washed with water and passed through a solid phase extraction cartridge using ethyl acetate/hexane (1:1) to give the title compound as a white solid (0.21 g).

reactant | 3-(2,3-Dihydro-5-fluorobenzofuran-4-yl)propylamine hydrochloride | 0.27 g | Cl.FC=1C=CC2=C(CCO2)C1CCCN
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | Cyclopropanecarbonyl chloride | 0.12 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Cyclopropane carboxylic acid [3-(2,3-dihydro-5-fluorobenzofuran-4-yl)propyl]-amide | 0.21 g | FC=1C=CC2=C(CCO2)C1CCCNC(=O)C1CC1 | C15H18FNO2
